US04157444
A suspension of 1.16 g. of thieno[3,4-b][1,5]-benzothiazepin-10(9H)-one in 20 ml. of methylene chloride was treated with 0.81 g of sulfuryl chloride as in Example 12 to give 3-chlorothieno[3,4-b][1,5]benzothiazepin-10(9H)-one as a white crystal, m.p. 287°-288° C.

reactant | thieno[3,4-b][1,5]-benzothiazepin-10(9H)-one | C=1SC=C2SC3=C(NC(C21)=O)C=CC=C3 | C11H7NOS2
reactant | sulfuryl chloride | 0.81 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-chlorothieno[3,4-b][1,5]benzothiazepin-10(9H)-one | ClC=1SC=C2C1SC1=C(NC2=O)C=CC=C1 | C11H6ClNOS2
